US04499094
Operations are carried out as for Example 1, starting from 21 g of 4-(4-methoxy phenyl) quinoline 2-carboxylic acid, 64 ml of thionyl chloride and 39 ml of diethylamine. 2.2 g of N,N-diethyl 4-(4-methoxy phenyl) quinoline 2-carboxamide are obtained. After recrystallization in isopropyl ether the product melts at 91° C.

reactant | 4-(4-methoxy phenyl) quinoline 2-carboxylic acid | 21 g | COC1=CC=C(C=C1)C1=CC(=NC2=CC=CC=C12)C(=O)O | C17H13NO3
reactant | thionyl chloride | 64 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 39 ml | C(C)NCC | C4H11N
product | N,N-diethyl 4-(4-methoxy phenyl) quinoline 2-carboxamide | 2.2 g | C(C)N(C(=O)C1=NC2=CC=CC=C2C(=C1)C1=CC=C(C=C1)OC)CC | C21H22N2O2
